US08278331B2
To a solution of 2-(benzyloxy)-1,3-difluoro-5-nitrobenzene (5.3 g, 20 mol) in ethanol (100 mL) was added 10% palladium on activated carbon (1.5 g). The mixture was hydrogenated (1 atm) at RT overnight. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to give 4-amino-2,6-difluorophenol (2.9 g, 95% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.68 (brs, 1H), 6.19 (d, J=10.8 Hz, 2H), 5.01 (s, 2H).

reactant | 2-(benzyloxy)-1,3-difluoro-5-nitrobenzene | 20 mol, 5.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)[N+](=O)[O-])F | C13H9F2NO3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 1.5 g | [Pd] | Pd
product | 4-amino-2,6-difluorophenol | 2.9 g, 95% yield | NC1=CC(=C(C(=C1)F)O)F | C6H5F2NO
